US05747236
12. Preparation of methyl 2-hydroxy-2-(1-methyl-3-indolyl)acetate
To a solution of 2.87 millimole of LDA in 5 mL of dry tetrahydrofuran at -78° C. was added dropwise a solution of 0.53 g of methyl 2-(1-methyl-3-indolyl)acetate in 5 mL of dry tetrahyrofruan. The mixture was stirred for 30 minutes at -78° C., and then 0.9 g of (+)-(2R,8aS)-(camphorsulfonyl)oxaziridine was added. The mixture was warmed to room temperature and stirred for 2 hours. Then the mixture was poured into a solution of saturated aqueous ammonium chloride, and then extracted with diethyl ether. The ether extract was dried with magnesium sulfate and concentrated by evaporation. The residue was subjected to silica gel chromatography using a developing solution of dichloromethane/ethyl acetate (98:2 by volume) to give 0.38 g of an oily product.

reactant | LDA | 2.87 millimole | [Li+].CC(C)[N-]C(C)C
reactant | methyl 2-(1-methyl-3-indolyl)acetate | 0.53 g | CN1C=C(C2=CC=CC=C12)CC(=O)OC | C12H13NO2
reactant | (+)-(2R,8aS)-(camphorsulfonyl)oxaziridine | 0.9 g | CC1([C@@H]2CC[C@]13CS(=O)(=O)N4[C@@]3(C2)O4)C | C10H15NO3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | methyl 2-hydroxy-2-(1-methyl-3-indolyl)acetate | 0.38 g | OC(C(=O)OC)C1=CN(C2=CC=CC=C12)C | C12H13NO3
